US06884821B1
1.5 g of ethyl 2-(diethylphosphoryl)-2-ethylacetate was dissolved in 30 ml tetrahydrofuran, and 0.26 g of 60% sodium hydride was added thereto under ice-cooling. The reaction solution was stirred for 30 minutes under ice-cooling and 1.5 g of benzyl 5-formyl-2-methoxybenzoate was added thereto, and the mixture was stirred at room temperature for 20 hours. Aqueous ammonium chloride solution was added to the reaction mixture, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was subjected to silica gel column chromatography, to give 1.6 g of benzyl 5-(3-ethoxy-2-ethoxy-3-oxo-1-propenyl)-2-methoxybenzoate as an E-Z mixture from fractions eluted with hexane-ethyl acetate (4:1).

reactant | ethyl 2-(diethylphosphoryl)-2-ethylacetate | 1.5 g | C(C)P(=O)(CC)C(C(=O)OCC)CC | C10H21O3P
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | benzyl 5-formyl-2-methoxybenzoate | 1.5 g | C(=O)C=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C16H14O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | benzyl 5-(3-ethoxy-2-ethoxy-3-oxo-1-propenyl)-2-methoxybenzoate | 1.6 g | C(C)OC(C(=CC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC)OCC)=O | C22H24O6
